US06207695B1
(R)-2-Iodo-(2′,4′-dichlorophenyl)-1-ethanol:
(R)-2-Chloro-(2′,4′-dichlorophenyl)-1-ethanol (1.95 g, 8.65 mmol) was dissolved in 60 mL of anhydrous acetone (4A molecular sieves). Then NaI (7 g, 46.70 mmol) was added to the solution and the solution refluxed for 3 hours under nitrogen. Upon cooling to room temperature, the solution was poured into 160 mL of hexanes/ethyl acetate (3:1), and filtered to remove excess NaI which had precipitated. The filtrate was evaporated to dryness in vacuo, and the residue treated with ether and decanted from the solid NaI. Upon removal of ether, the product was obtained as white solid. Yield: 2.40 g (88%).

reactant | (R)-2-Chloro-(2′,4′-dichlorophenyl)-1-ethanol | 8.65 mmol, 1.95 g | ClC[C@H](O)C1=C(C=C(C=C1)Cl)Cl | C8H7Cl3O
reactant | NaI | 46.70 mmol, 7 g | [Na+].[I-]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | (R)-2-Iodo-(2′,4′-dichlorophenyl)-1-ethanol | IC[C@H](O)C1=C(C=C(C=C1)Cl)Cl | C8H7Cl2IO
